US07888366B2
To a cold (ice water) suspension of sodium hydride (316 mg; 7.9 mmol) in anhydrous DMF (10 mL) is added a solution of 1-(3,4-dichlorophenyl)-ethanol (1.40 g; 7.3 mmol) in anhydrous DMF (5 mL) over 30 minutes. After allowing to room temperature over 30 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1.0 g; 7.2 mmol) in anhydrous DMF (15 mL), and allowed to room temperature over 2 hours. The reaction mixture is poured into ice water with vigorous stirring and extracted with ethyl acetate. The organics are separated and dried over magnesium sulfate. The solvent is removed and the resulting oil is dried under vacuum at 30° C. overnight to give 1.93 gm of 2-[1-(3,4-dichlorophenyl)-ethoxy]-6-fluorobenzonitrile.

reactant | sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | 1-(3,4-dichlorophenyl)-ethanol | 7.3 mmol, 1.40 g | ClC=1C=C(C=CC1Cl)C(C)O | C8H8Cl2O
reactant | 2,6-difluorobenzonitrile | 7.2 mmol, 1.0 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[1-(3,4-dichlorophenyl)-ethoxy]-6-fluorobenzonitrile | 1.93 gm | ClC=1C=C(C=CC1Cl)C(C)OC1=C(C#N)C(=CC=C1)F | C15H10Cl2FNO
